US04795814
20 Grams of p-tetrahydropyranyloxyiodobenzene and 70 ml of anhydrous pyridine containing 11.3 g of copper (I) 3-acetyloxy-1-propyn-1-ide were refluxed for 6 hours under an atmosphere of argon gas. After the reaction was completed the reaction mixture was poured into water and the whole mixture was extracted with chloroform. The chloroform layer was washed with water, dried and the solvent was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: chlorofrom:n-hexane=1:1) to yield 8 g of 4-[4-(2-tetrahydropyranyloxy)phenyl]-3-butynyl acetate in the form of colorless oily substance.

reactant | p-tetrahydropyranyloxyiodobenzene | O1C(CCCC1)OC1=CC=C(C=C1)I | C11H13IO2
reactant | pyridine | 70 ml, 11.3 g | N1=CC=CC=C1 | C5H5N
catalyst | copper (I) 3-acetyloxy-1-propyn-1-ide | C(C)(=O)OCC#[C-].[Cu+]
solvent | water | O | H2O
product | 4-[4-(2-tetrahydropyranyloxy)phenyl]-3-butynyl acetate | 8 g | C(C)(=O)OCCC#CC1=CC=C(C=C1)OC1OCCCC1 | C17H20O4
